US06864265B2
4-(4-Fluorophenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole
Reaction of 4-(4-fluoro-phenyl)-1H-imidazole (573 mg, 3.53 mmol), 95% NaH (100 mg, 4.0 mmol), and SEMCl (650 mg, 3.90 mmol) followed by purification of the crude material on silica gel (50% EtOAc/hexanes) gave the title compound as yellow crystals (695 mg, 67%). 1H NMR (CDCl3) □−0.01 (s, 9H), 0.93 (m, 2H), 3.52 (m, 2H), 5.29 (s, 2H), 7.07 (m, 2H), 7.28 (s, 1H), 7.62 (s, 1H), 7.75 (m, 2H).

reactant | 4-(4-fluoro-phenyl)-1H-imidazole | 3.53 mmol, 573 mg | FC1=CC=C(C=C1)C=1N=CNC1 | C9H7FN2
reactant | NaH | 4.0 mmol, 100 mg | [H-].[Na+]
reactant | SEMCl | 3.90 mmol, 650 mg | C[Si](C)(C)CCOCCl | C6H15ClOSi
product | 4-(4-Fluorophenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole | 695 mg, 67% | FC1=CC=C(C=C1)C=1N=CN(C1)COCC[Si](C)(C)C | C15H21FN2OSi
